### PR TITLE
feat(Computability/Primrec): primality is primitive recursive

### PR DESCRIPTION
**Pull request by bally65**
Primrec.nat_prime : PrimrecPred Nat.Prime, via Nat.prime_def_lt' and the bounded quantifier PrimrecRel.forall_lt. Mathlib had no computability statement about Nat.Prime.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Primrec/Prime.lean [hunk 1]
```diff
@@ -0,0 +1,42 @@
...
+-/
+module
+
+public import Mathlib.Computability.Primrec.List
+public import Mathlib.Data.Nat.Prime.Defs
+
+/-!
+# Primality is primitive recursive
+
+`Primrec.nat_prime : PrimrecPred Nat.Prime`.
```
Comment (pepamontero) [inline Mathlib/Computability/Primrec/Prime.lean]:
```suggestion
## Main results

* `Primrec.nat_prime`: primality is a primitive recursive predicate.
```

File: Mathlib/Computability/Primrec/Prime.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+-/
+
+public section
+
+namespace Primrec
+
+/-- Primality is a primitive recursive predicate on `ℕ`. -/
+theorem nat_prime : PrimrecPred Nat.Prime := by
+  have hR : PrimrecRel fun m n : ℕ => 2 ≤ m ∧ n % m = 0 := by
+    unfold PrimrecRel
```
Comment (pepamontero) [inline Mathlib/Computability/Primrec/Prime.lean]: There are many times where using `unfold` is actually unnecessary as Lean sees through the definitions. You can omit this line here and the proof works just the same.

```suggestion
```

File: Mathlib/Computability/Primrec/Prime.lean [hunk 3]
```diff
@@ -0,0 +1,42 @@
...
+`ComputablePred.to_re`; they are not stated here to keep this file inside the `Primrec` layer.
+-/
+
+public section
+
+namespace Primrec
+
+/-- Primality is a primitive recursive predicate on `ℕ`. -/
+theorem nat_prime : PrimrecPred Nat.Prime := by
+  have hR : PrimrecRel fun m n : ℕ => 2 ≤ m ∧ n % m = 0 := by
```
Comment (pepamontero) [inline Mathlib/Computability/Primrec/Prime.lean]: Note that mathlib prefers `↦` rather than `=>` when talking about functions

**Review by pepamontero — COMMENTED** [review]
Thanks for this! I think this is a cool addition :) I have some suggestions, but they're "optional" per se, just my thoughts.

I think it would read better going through `Nat.prime_def_lt` rather than `Nat.prime_def_lt'`. The `∀ m < n, m ∣ n → m = 1` form is already the shape `PrimrecRel.forall_lt` produces, so there's no need to reorder the hypotheses at the end. So you may start the proof like this:

```
theorem nat_prime : PrimrecPred Nat.Prime := by
  refine PrimrecPred.of_eq ?_ fun _ ↦ Nat.prime_def_lt.symm
```

leaving you

```
⊢ PrimrecPred fun x ↦ 2 ≤ x ∧ ∀ m < x, m ∣ x → m = 1
```

And then yout `hR` could be simply `hR : PrimrecRel fun m n : ℕ ↦ m ∣ n → m = 1`.

So I think once you have this, instead of trying to close it with the current tools if they require many manipulations, one has to think about whether some tools might be missing? So I thought these two lemmas could be added in `Primrec/Basic.lean` that would make this easier and are probably useful additions anyway:

- `PrimrecPred.imp`, in the shape of `PrimrecPred.and` and `.or` but for implication.
- `Primrec.nat_dvd : PrimrecRel ((· ∣ ·) : ℕ → ℕ → Prop)`(maybe after `nat_mod`, since it has a similar shape)

With those `hR` should be easier and the rest of the proof should follow a similar pattern as your `h` I'd say.

Once again these are optional and your proof is fine :) I'm also happy to add these lemmas for you or try to help a bit more. You could also add these as a separate PR. I also left a couple style comments below.
